### PR TITLE
Prime (and composite) numbers

### PR DESCRIPTION
**Pull request by qlbrpl**
Defined and formalized a bunch of properties of prime and composite numbers, all working up to the ultimate result of proving that ℕ is isomorphic to Σ ℕ isPrime. This is my first pull request, and I only started learning Agda about a month ago; constructive criticism of any sort is very much appreciated!

### CODE REVIEW

**Comment by felixwellen** [comment]
Hi @qlbrpl , thanks for contributing!

File: Cubical/Data/Nat/Primes/Lemmas.agda [hunk 1]
```diff
@@ -0,0 +1,321 @@
...
+    suc< (suc< (<≤-trans (suc< (z<suc (b + a · suc (suc b)))) (≤SumRight {k = b})))
+
+PropFac< : ∀ a b n → 1 < b → 0 < n → a · b ≡ n → a < n
+PropFac< zero _ _ _ 0<n _ = 0<n
+PropFac< (suc a) zero n 1<b 0<n ab=n = ⊥.rec (¬-<-zero 1<b)
+PropFac< (suc a) (suc zero) n 1<b 0<n ab=n = ⊥.rec (¬n<n 1<b)
+PropFac< (suc a) (suc (suc b)) zero _ 0<n ab=n = ⊥.rec (¬n<n 0<n)
+PropFac< (suc a) (suc (suc b)) (suc n) _ _ ab=n = lem a b n ab=n where
+    lem : ∀ a b n → suc (suc (b + a · suc (suc b))) ≡ suc n → suc a < suc n
+    lem a b n p =
```
Comment (felixwellen) [inline Cubical/Data/Nat/Primes/Lemmas.agda:125]: Nice! I played a bit with your notation, you can also do this (if you like):
image
I replaced `→` with `⇒` just because I associate the latter more with "implication", but I guess that depends on how you grew up - certainly no strong opinion there.

File: Cubical/Data/Nat/Primes/Base.agda [hunk 2]
```diff
@@ -0,0 +1,25 @@
+{-# OPTIONS --safe #-}
+
+module Cubical.Data.Nat.Primes.Base where
+
+open import Cubical.Data.Nat.Primes.Imports
```
Comment (felixwellen) [inline Cubical/Data/Nat/Primes/Base.agda:5]: I thinks it is okay to have an `Imports` file, but in the case of `Base` it should be avoided to use something like that, since that could get involved in solving problems with cyclic dependencies later on.

File: Cubical/Data/Nat/Primes/Base.agda [hunk 3]
```diff
@@ -0,0 +1,25 @@
...
+open import Cubical.Data.Nat.Primes.Lemmas using (1<·1<=3<)
+
+
+record isPrime (n : ℕ) : Type where
+    constructor prime
```
Comment (felixwellen) [inline Cubical/Data/Nat/Primes/Base.agda:10]: This record should be `no-eta-equality` if possible.

File: Cubical/Data/Nat/Primes/Base.agda [hunk 4]
```diff
@@ -0,0 +1,25 @@
...
+    field
+        n-proper : 1 < n
+        primality : ∀ d → d ∣ n → (d ≡ 1) ⊎ (d ≡ n)
+
+record isComposite (n : ℕ) : Type where
+    constructor composite
+    field
```
Comment (felixwellen) [inline Cubical/Data/Nat/Primes/Base.agda:17]: `no-eta-equality`?

**Review by felixwellen — CHANGES_REQUESTED** [review]
Good! I only have minor comments.

**Comment by qlbrpl** [comment]
I do use the eta-equality properties of isPrime and isComposite when proving isProp; I need to show equality of two instances of isPrime n (resp. isComposite n) and this is easy with cong when I have eta-equality. I think I might have to do some sort of encode-decode thing to characterize their path space before being able to do the same with no-eta-equality.

File: Cubical/Data/Nat/Count.agda [hunk 5]
```diff
@@ -1,20 +1,55 @@
...
-        ℓ ℓ' : Level
+        ℓ ℓ' ℓ'' : Level
+
+    -- some definitions and lemmas
 
     decToN : {A : Type ℓ} → Dec A → ℕ
     decToN (yes _) = 1
     decToN (no  _) = 0
 
+    data All {A : Type ℓ} (P : A → Type ℓ') : List A → Type (ℓ-max ℓ ℓ') where
```
Comment (anshwad10) [inline Cubical/Data/Nat/Count.agda:27]: I don't think this should be a private definition here because it's useful in other places, you should move it to `Data.List`

File: Cubical/Data/Nat/Count.agda [hunk 6]
```diff
@@ -1,20 +1,55 @@
...
+      []  :                             All P []
+      _∷_ : ∀ {x xs} → P x → All P xs → All P (x ∷ xs)
+
+    mapAll : {A : Type ℓ} {P Q : A → Type ℓ'} {xs : List A} → (∀ {a} → P a → Q a) → All P xs → All Q xs
+    mapAll f [] = []
+    mapAll f (Px ∷ Pxs) = f Px ∷ mapAll f Pxs
+
+    add-equations : ∀ {a} {b} {c} {d} → a ≡ b → c ≡ d → a + c ≡ b + d
```
Comment (anshwad10) [inline Cubical/Data/Nat/Count.agda:35]: This is `cong₂ _+_` (`cong₂` is defined in the [prelude](https://agda.github.io/cubical/Cubical.Foundations.Prelude.html#2025))

File: Cubical/Data/Nat/Count.agda [hunk 7]
```diff
@@ -1,20 +1,55 @@
...
+    add-equations {b = b} {c = c} a=b c=d = cong (_+ c) a=b ∙ cong (b +_) c=d
+
+    <≠ : forall {m} {n} → m < n → ¬ m ≡ n
+    <≠ {m = m} m<n m=n = <-asym m<n (0 , sym m=n)
+
+
+DecProd-aux : {A : Type ℓ} (P : A → Type ℓ') (Q : A → Type ℓ'') → ∀ {a} →
```
Comment (anshwad10) [inline Cubical/Data/Nat/Count.agda:42]: This could be in [`Cubical.Relation.Nullary.DecidablePropositions`](https://agda.github.io/cubical/Cubical.Relation.Nullary.DecidablePropositions.html)

File: Cubical/Data/Nat/Primes/DecProps.agda [hunk 8]
```diff
@@ -23,50 +24,61 @@ private
...
+    p1∣n = ∣ (q1 , ·-comm q1 p1 ∙ pq=n) ∣₁
+    p2∣n = ∣ (q2 , ·-comm q2 p2 ∙ pq=n') ∣₁
+
+    p1=p2 : p1 ≡ p2
+    p1=p2 = ≤-antisym (least1 p2 1<p2 p2∣n) (least2 p1 1<p1 p1∣n)
+
+    q1=q2 : q1 ≡ q2
+    q1=q2 = inj-·0< q1 q2 (<-weaken 1<p1) (pq=n ∙ sym (subst (λ x → x · q2 ≡ n) (sym p1=p2) pq=n'))
+
+    leastProp : ∀ x → isProp ((p2' : ℕ) → 1 < p2' → p2' ∣ n → x ≤ p2')
```
Comment (anshwad10) [inline Cubical/Data/Nat/Primes/DecProps.agda:62]: Feels like this could also be useful elsewhere, you might want to extract this out (or make it a [named where block](https://agda.readthedocs.io/en/stable/language/let-and-where.html#where-blocks) so the definitions are accessible outside)

File: Cubical/Data/Nat/Primes/Lemmas.agda [hunk 9]
```diff
@@ -12,15 +12,15 @@ private
 
 -- some successive implication syntax
 
-step→ : {A : Type ℓ} (B : Type ℓ') → (A → B) → A → B
-step→ _ f = f
+step⇒ : {A : Type ℓ} (B : Type ℓ') → (A → B) → A → B
```
Comment (anshwad10) [inline Cubical/Data/Nat/Primes/Lemmas.agda:15]: This isn't related to primes, and it could be useful in other places so this could be moved to `Foundations.Function`

File: Cubical/Data/Nat/Primes/Lemmas.agda [hunk 10]
```diff
@@ -310,12 +251,8 @@ n≤! (suc n) = n≤n·pos (suc n) (n !) (0<factorial n)
     a∣n! : a ∣ (n !)
     a∣n! = ≤n∣n! a n (k , injSuc (sym (+-suc k a) ∙ k+sa=sn)) na=0
 
--- All and mapAll
+-- All
 
 data All {A : Type ℓ} (P : A → Type ℓ') : List A → Type (ℓ-max ℓ ℓ') where
```
Comment (anshwad10) [inline Cubical/Data/Nat/Primes/Lemmas.agda:256]: This is duplicated in `Data.Nat.Count`

**Review by anshwad10 — COMMENTED** [review]
Here are my own two cents

**Comment by qlbrpl** [comment]
@felixwellen Are there any more changes you're looking for on this, or is it ready to be merged?
